US08048901B2
(1R,3S)-5-{3-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]propyl}-2H-tetrazole
333 mg of (1R,3S)-4-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]butyronitrile are dissolved in 5 ml of xylene, and 919 mg of tributyltin azide are added. The mixture is stirred at 120° C. for 18 h and, after cooling, titurated with 0.5 ml of TFA. The solvent is removed under reduced pressure and the residue is purified by RP-HPLC. This gives (1R,3S)-5-{3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]propyl}-2H-tetrazole as a colorless oil. C22H29N5O3 (411.51), MS (ESI): 412 (M+H+).

reactant | (1R,3S)-4-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]butyronitrile | 333 mg | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCCCC#N | C22H28N2O3
reactant | tributyltin azide | 919 mg | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (1R,3S)-5-{3-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]propyl}-2H-tetrazole | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCCCC=1N=NNN1 | C22H29N5O3
